US08975254B2
d) 5-Acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-3-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (0.50 g, 1.94 mmol), 3-acetyl-1H-pyrazole-5-carboxylic acid (0.30 g, 1.94 mmol), HOBt (0.31 g, 2.33 mmol), DIPEA (0.41 ml, 2.33 mmol) and EDCI (0.44 g, 2.33 mmol) using the method of Example 34(d) producing 0.56 g of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 2.48 (s, 3H), 3.69-3.73 (m, 2H), 4.39 (t, 2H), 7.05 (d, 1H), 7.30 (s, 1H), 7.88 (d, 1H), 8.18 (d, 1H), 8.32 (d, 1H), 8.66 (d, 1H), 14.16 (s, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 1.94 mmol, 0.50 g | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.94 mmol, 0.30 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | HOBt | 2.33 mmol, 0.31 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.33 mmol, 0.41 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 2.33 mmol, 0.44 g | CCN=C=NCCCN(C)C | C8H17N3
product | 5-Acetyl-N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-1H-pyrazole-3-carboxamide | 0.56 g | C(C)(=O)C1=CC(=NN1)C(=O)NCCN1N=C(C=C1)C1=CC(=C(C=C1)C#N)[N+](=O)[O-] | C18H15N7O4
